Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
WEAKNESS
 
Major Surgical or Invasive Procedure:
N/A
 
History of Present Illness:
___ is a ___ year-old M (poor historian) with a PMH of
psychosis, mechanical falls with negative syncope w/u in ___,
T2DM (last HbA1c unknown, on metformin and insulin), and COPD
(last FEV1 unknown), who presents with a 2-week history of
weakness and cough with sputum production. 

He was in his usual state of health until 2 weeks ago, when he
began to feel weak and short of breath. Of note, he has had
similar episodes in the past that last for several days and said
directly that "this feels like pneumonia to me." This was
associated with a frequent cough productive of yellow-green
sputum and anorexia with poor PO intake. He denies hemoptysis,
fevers, chills, and night sweats. He denies orthopnea and PND. 
He
denies nausea, vomiting, diarrhea, constipation, hematochezia,
melena, dysuria, and hematuria. Yesterday, he experienced
worsening lightheadedness and he had frequent episodes of
tripping. He denies falls, LOC, or head strike with these
episodes.   

This morning, he had an episode of chest pain that was
midsternal, sharp, and pleuritic without radiation into the arm
or neck or worsened SOB. Concurrently, he was too weak to rise
from his chair. Last FSG 138. Given his weakness and worsening
respiratory status, he presented to the ED. 

___ ED
--------
+ Initial Vitals:  
 97.5 91 126/81 17 100% RA 

+ Exam was notable for: 
 Dry MM, R tonsillar fullness. No focality to pulmonary exam. 
 
+ Labs were significant for:
 BUN 33, Cr 1.5, AGAP 21
 WBC 13, Hgb 12.4, Plt 341
 Trop <0.01

+ Imaging:
- CT head showed no acute process.
- CXR showed streaky posteroinferior left lobe opacity may
reflect atelectasis, though infection cannot be entirely
excluded.
- EKG showed NSR, rate 90.

+ Interventions: 1L IVF, azithromycin 500mg IV x1, CTX 1g x1.

+ Vitals Prior to Transfer: 
 97.9 84 132/78 17 99% RA 

Currently, he continues to have a cough with intermittent sputum
production. His appetite has returned and he was eating dinner 
at
the time of the exam. He denies any other complaints. 
  
 
Past Medical History:
1. Paranoid schizophrenia, well-controlled on Clozaril  
- Previous auditory and visual hallucinations, none "for awhile"
per patient
2. Mechanical falls with negative syncope workup (___)
3. T2DM (last HbA1c 7.1 in ___
4. COPD (last FEV1 unknown)
 
 
Social History:
___
Family History:
Unknown to patient. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
VS:  T 97.7 BP 137/80 HR 98 RR 20 SaO2 100% RA Wt 78.88kg 
GEN: Man appearing older than stated age, alert, lying in bed
watching TV, no acute distress.   
HEENT: Dry MM, anicteric sclerae, no conjunctival pallor. +R
tonsillar fullness.  
NECK: Supple without LAD. 
PULM: Globally decreased breath sounds with intermittent
expiratory wheeze, no rhonchi or rales, symmetric air movement,
no increased work of breathing. 
COR: RRR (+)S1/S2 no m/r/g  
ABD: Soft, non-tender, non-distended, +bowel sounds. 
EXTREM: Warm, well-perfused, no edema. +2 ___ pulses. 
NEURO: A&Ox3. CN II-XII grossly intact, motor function grossly
normal. Diminished sensation in bilateral distal ___ (although
difficult to pinpoint given intermittent compliance with the
exam).  

DISCHARGE PHYSICAL EXAM
VS: 97.2 141/86 83 18 97 RA   
Orthostatics ___:
 154/77 82 (lying)
 143/78 90 (sitting)
 120/86 97 (standing) 
GEN: Elderly gentleman lying in bed, arousable but falls asleep 
quickly, NAD.
HEENT: Chapped lips, anicteric sclerae. Multiple missing teeth 
of front lower jaw.
NECK: Supple without LAD. 
PULM: Breath sounds clearer than ___ bilaterally but general 
poor air movement decreased, intermittent expiratory wheeze, no 
increased work of breathing. No egophony. 
COR: RRR (+)S1/S2 no m/r/g, heart sounds distant.   
ABD: Soft, non-tender, non-distended, +bowel sounds. 
EXTREM: Warm, well-perfused, no edema. +2 ___ pulses. 
No e/o diabetic foot ulcers.
NEURO: Refused to answer orientation Qs this AM. Gait deferred.
 
Pertinent Results:
ADMISSION LABS
------------------

___ 12:30PM BLOOD WBC-13.0* RBC-4.26* Hgb-12.4* Hct-36.5* 
MCV-86 MCH-29.1 MCHC-34.0 RDW-13.8 RDWSD-42.5 Plt ___
___ 12:30PM BLOOD Neuts-77.3* Lymphs-16.1* Monos-5.3 
Eos-0.5* Baso-0.2 Im ___ AbsNeut-10.01* AbsLymp-2.08 
AbsMono-0.69 AbsEos-0.06 AbsBaso-0.03
___ 12:30PM BLOOD Glucose-139* UreaN-33* Creat-1.5* Na-136 
K-4.2 Cl-97 HCO3-22 AnGap-21*

OTHER LABS
------------------
___ 06:55AM BLOOD Cortsol-13.0
___ 06:33AM BLOOD Triglyc-379* HDL-25 CHOL/HD-8.8 
LDLcalc-120
___ 07:25AM BLOOD WBC-7.2 RBC-3.77* Hgb-10.9* Hct-32.7* 
MCV-87 MCH-28.9 MCHC-33.3 RDW-13.9 RDWSD-43.2 Plt ___
___ 06:33AM BLOOD %HbA1c-7.1* eAG-157*
___ 06:33AM BLOOD Triglyc-379* HDL-25 CHOL/HD-8.8 
LDLcalc-120
___ 06:33AM BLOOD HBsAg-Negative HBsAb-Negative IgM 
HBc-Negative
___ 06:33AM BLOOD HIV Ab-Negative
___ 06:33AM BLOOD HCV Ab-Negative
___ 10:07AM BLOOD ___ pO2-195* pCO2-33* pH-7.43 
calTCO2-23 Base XS-0
___ 12:30PM BLOOD cTropnT-<0.01

DISCHARGE LABS
___ 06:13AM BLOOD WBC-9.3 RBC-4.19* Hgb-11.9* Hct-36.5* 
MCV-87 MCH-28.4 MCHC-32.6 RDW-13.7 RDWSD-43.2 Plt ___
___ 06:13AM BLOOD Glucose-114* UreaN-16 Creat-1.1 Na-137 
K-4.3 Cl-99 HCO3-21* AnGap-21*

IMAGING
---------
+ CXR (___)
Streaky left lobe opacity may reflect atelectasis, though
infection cannot be entirely excluded. 

+ CT Head (___)
No acute intracranial abnormalities.  Specifically, no evidence
of intra-axial or extra-axial hemorrhage. 

+ EKG (___)
 NSR, rate 90

 
Brief Hospital Course:
___ is a ___ year-old M (poor historian) with a PMH of 
psychosis, mechanical falls with negative syncope w/u in ___, 
T2DM (last HbA1c 7.1 in ___, on metformin and insulin), and 
COPD (last FEV1 unknown), who presents with a 2-week history of 
weakness and cough with sputum production concerning for CAP as 
well as orthostatic hypotension. 

# Cough: Likely CAP given leukocytosis (13k), malaise, sputum 
production, and LLL infiltrate on CXR. Never met SIRS criteria 
during hospitalization. He always saturated well on RA with no 
evidence of increased work of breathing. SputumCx indeterminate, 
urine legionella negative. He received a 5-day course of 
antibiotics with ceftriaxone/azithromycin (___). On 
discharge, he was feeling significantly better with no 
complaints of cough. 

# Dizziness/Weakness: The patient presented with orthostatic 
hypotension thought secondary hypovolemia in the setting of poor 
PO intake, given positive orthostatics and BUN/Cr > 20:1 
suggestive of dehydration. Patient relies on cane at home. ECG 
NSR, trops neg. CT Head with no acute process. Electrolytes WNL. 
Despite brisk fluid resuscitation and now likely euvolemic 
status, orthostatics remain positive and he has a persistent 
unsteady gait. Underlying etiology unclear, possibly autonomic 
dysfunction ___ DM versus medication (on clozapine). Per 
outpatient psychiatrist Dr. ___ has been on the same dose 
of clozapine for ___ years. Adrenal insufficiency unlikely as 
___ AM cortisol level 13.0. ___ evaluated him on ___ and 
recommended rehab. On discharge, his orthostatic vital signs 
remained positive and he continued to require assistance with 
walking. He was initiated on fludrocortisone 0.1mg QD on ___ 
with some symptom relief. 

# ___: Likely due to hypovolemia in the setting of poor PO 
intake given BUN/Cr > 20:1. Last baseline 0.95 in ___. We 
gave him IVF as above with resolution of his ___ to Cr 0.9. On 
discharge, his BUN/Cr were ___.

# Prior IVDU: Patient reports prior history of heroin use and 
"other drugs." He gave consent for HIV testing. HIV, HepB, HepC 
were all negative. 

CHRONIC ISSUES: 
===============
# Psychosis: Continued clozapine. 
# Diabetes: RISS, held home metformin. Repeat HbA1c 7.2. FSGs 
120s-180s here. No evidence of diabetic foot ulcers. 
# COPD: Continued home fluticasone and tiotropium inhaler. 
# GERD: Continued home ranitidine. 
# CAD: Continued home ASA. 
# HTN: Held home lisinopril given orthostatic hypotension. 
# HL: Continued home gemfibrozil. Total Chol 221 Triglycerides 
379* elevated. HDL low at 25. Chol/HD 8.8, LDL calc 120. 

TRANSITIONAL ISSUES
=================== 
# Fludrocortisone: The patient was initiated on Fluricil on ___ 
at 0.1mg daily. This can be uptitrated at a rate of 0.1mg per 
week to a maximum of 0.3mg daily. 

# Transthoracic echo: The patient was scheduled for an 
outpatient echo. ECHO office will call patient to make 
appointment. He should follow up with a cardiologist to review 
the results.

# Nutrition: The patient arrived with evidence of dehydration. 
Please ensure that he is reminded to drink water and other 
fluids throughout the day, especially if he is feeling ill. 

# Former IVDU: HIV, HepC, HepB found to be negative on this 
admission. No evidence of active IVDU.

# ? Diabetic neuropathy: The patient intermittently reported 
reduced sensation and proprioception in bilateral distal 
extremities. His HbA1c was 7.2 on admission, which is mildly 
elevated. His orthostatic hypotension may also be an effect of 
autonomic neuropathy. His primary care physician should 
reevaluate this at their next appointment. 

# Orthostatic hypotension: He will be scheduled for an 
outpatient follow-up appointment with neurology to evaluate for 
potential causes of autonomic neuropathy. If negative, his 
psychiatrist should consider redosing of his clozapine to 
minimize potential side effects. His primary care physician 
should continue to work closely with him to ensure his diabetes 
mellitus is being treated adequately. 

# Blood cultures: Negative since ___, final result pending at 
discharge. If any growth observed, the patient will be notified. 


# Lipid panel: Total Chol 221 Triglycerides 379* elevated. HDL 
low at 25. Chol/HD 8.8, LDL calc 120. He should have a repeat 
lipid panel performed with his primary care physician and 
consider alternative agents/dosing to better manage his low HDL 
and high triglycerides.

===========================
# CODE STATUS: Full (unconfirmed) 
# CONTACT: ___ ___ or ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Aspirin 81 mg PO DAILY 
3. Clozapine 200 mg PO BID 
4. Clozapine 75 mg PO HS 
5. Docusate Sodium 100 mg PO BID 
6. Fluticasone Propionate 110mcg 2 PUFF IH BID 
7. Gemfibrozil 600 mg PO BID 
8. Lisinopril 5 mg PO DAILY 
9. Ranitidine 150 mg PO BID 
10. Tiotropium Bromide 1 CAP IH DAILY 
11. MetFORMIN (Glucophage) 1000 mg PO BID 
12. Detemir 32 Units Breakfast
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Aspirin 81 mg PO DAILY 
3. Clozapine 200 mg PO BID 
4. Clozapine 75 mg PO HS 
5. Docusate Sodium 100 mg PO BID 
6. Fluticasone Propionate 110mcg 2 PUFF IH BID 
7. Gemfibrozil 600 mg PO BID 
8. Lisinopril 5 mg PO DAILY 
9. Ranitidine 150 mg PO BID 
10. Tiotropium Bromide 1 CAP IH DAILY 
11. MetFORMIN (Glucophage) 1000 mg PO BID 
12. Detemir 32 Units Breakfast

 
Discharge Medications:
1.  Fludrocortisone Acetate 0.1 mg PO DAILY hypotension  
2.  Acetaminophen 650 mg PO Q6H:PRN pain  
3.  Aspirin 81 mg PO DAILY  
4.  Clozapine 200 mg PO BID  
5.  Clozapine 75 mg PO HS  
6.  Docusate Sodium 100 mg PO BID  
7.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
8.  Gemfibrozil 600 mg PO BID  
9.  Detemir 32 Units Breakfast 
10.  MetFORMIN (Glucophage) 1000 mg PO BID  
11.  Ranitidine 150 mg PO BID  
12.  Tiotropium Bromide 1 CAP IH DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
COMMUNITY-ACQUIRED PNEUMONIA 
DEHYDRATION 
ACUTE KIDNEY INJURY 
ORTHOSTATIC HYPOTENSION 

SECONDARY DIAGNOSES:
TYPE II DIABETES MELLITUS
HYPERTENSION
HYPERLIPIDEMIA
CHRONIC OBSTRUCTIVE PULMONARY DISEASE
PARANOID SCHIZOPHRENIA 
CORONARY ARTERY DISEASE 
GASTROESOPHAGEAL REFLUX DISORDER 

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital for weakness and cough. We 
found that you had a pneumonia (infection of the lungs) and gave 
you antibiotics. We also found that you were very dehydrated and 
gave you IV fluids. Our physical therapists also evaluated you 
and decided you were strong enough to go home. 

You will need to continue your antibiotics until _____. It is 
very important not to stop your antibiotics early as this can 
lead to repeated or worse infections. 

Please make sure to drink enough water (at least 8 cups a day) 
and eat three meals a day. 

It was a pleasure taking care of you, and we hope you continue 
to feel better.

Sincerely,
Your Team at ___
 
Followup Instructions:
___